US04599333
To a suspension of 4.2 g of 61% sodium hydride in 100 ml of benzene was added dropwise 6.2 g of 2-aminoethanol at room temperature. Then, 15 g of 3,6-dichloropyridazine was added, and the mixture was refluxed for 1 hour. After cooling, the reaction mixture was washed with water, and dried over magnesium sulfate. After evaporating the solvent, the residue was treated with hydrogen chrolide-ether solution to give 5.73 g of 3-(2-aminoethoxy)-6-chloropyridazine hydrochloride as crystals.

reactant | sodium hydride | 4.2 g | [H-].[Na+]
reactant | 2-aminoethanol | 6.2 g | NCCO | C2H7NO
reactant | 3,6-dichloropyridazine | 15 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-aminoethoxy)-6-chloropyridazine hydrochloride | 5.73 g | Cl.NCCOC=1N=NC(=CC1)Cl | InChI=1S/C6H8ClN3O.ClH/c7-5-1-2-6(10-9-5)11-4-3-8;/h1-2H,3-4,8H2;1H
